US04743602
Phosphorus oxychloride (24.04 g, 0.157 mol) was added dropwise to N-methylformanilide (21.24 g, 0.157 mol) and a yellow solid was produced. This was cooled to 0° C. for 1/2 hour, then 2-t-butylthiophene (20 g, 0.143 mol) was added dropwise and the mixture stirred at room temperature for 3 hours. The mixture was poured into ice/water, neutralised with sodium bicarbonate and extracted into diethyl ether. The ethereal extracts were washed with water, dried over anhydrous sodium sulphate and the solvent removed to give a brown liquid. Purification by column chromatography (silica eluted with petroleum ether/ethyl acetate 9:1) gave 5-t-butyl-2-thiophenecarboxaldehyde (21.01 g, 87%) as a yellow liquid.

reactant | Phosphorus oxychloride | 0.157 mol, 24.04 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methylformanilide | 0.157 mol, 21.24 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | 2-t-butylthiophene | 0.143 mol, 20 g | C(C)(C)(C)C=1SC=CC1 | C8H12S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-t-butyl-2-thiophenecarboxaldehyde | 21.01 g, 87% | C(C)(C)(C)C1=CC=C(S1)C=O | C9H12OS
